US06822100B2
6-Methoxyindole (1.47 g, 10.00 mmol) was cooled to 0° C. in methylene chloride and BBr3 (2 M in methylene chloride, 25 mL, 50.00 mmol) was added. After stirring 16 h at room temperature, TLC analysis indicated the reaction was complete. The reaction was quenched with water and the layers separated. The organic layers were washed with 1 N NaOH. The basic aqueous layers were acidified with conc. HCL, extracted with methylene chloride, dried over anhydrous magnesium sulfate, and concentrated in vacuo to give the crude 6-hydroxyindole which was used directly for the next reaction.

reactant | 6-Methoxyindole | 10.00 mmol, 1.47 g | COC1=CC=C2C=CNC2=C1 | C9H9NO
reactant | BBr3 | 50.00 mmol, 2 M, 25 mL | B(Br)(Br)Br | BBr3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-hydroxyindole | OC1=CC=C2C=CNC2=C1 | C8H7NO
